US06492403B1
A slurry of P2O5 (2.7 g, 19 mmol) and hexamethyldisiloxane (6.7 mL) in dichloroethane (13 mL) was heated to 90° C., while stirring under a N2 atmosphere. After stirring for 2 h, the resulting clear solution was allowed to cool to 40° C. 5-methylthio-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxamide (0.9 g, 2.7 mmol) as prepared in previous step was added to this solution and the mixture was heated at 75° C. for 5 h. This solution was cooled to room temperature and stirred with aqueous NaCl (6 M, 100 mL) for 10 min. As the aqueous solution is added a yellow solid precipitated. After 10 min this solid was separated by filtration, and dried under vacuum to give (0.5 g, 59%) of 5-methylthio-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carbonitrile as a yellow solid. 1H-NMR (DMSO-d6; 300 MHz) δ2.76 (s, 3H), 7.35-7.40 (m, 1H), 7.45-7.50 (m, 2H), 8.05-8.08 (m, 2H), 8.22 (s, 1H), 8.51 (s, 1H).

reactant | P2O5 | 19 mmol, 2.7 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | hexamethyldisiloxane | 6.7 mL | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | 5-methylthio-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxamide | 2.7 mmol, 0.9 g | CSC1=C(C=C(S1)C(=O)N)C=1SC=C(N1)C1=CC=CC=C1 | C15H12N2OS3
reactant | NaCl | 6 M, 100 mL | [Na+].[Cl-]
solvent | dichloroethane | 13 mL | ClC(C)Cl | C2H4Cl2
product | 5-methylthio-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carbonitrile | 0.5 g, 59% | CSC1=C(C=C(S1)C#N)C=1SC=C(N1)C1=CC=CC=C1 | C15H10N2S3
